Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=[CH:1][CH2:2][CH2:3][CH2:4][CH2:5][OH:6].[CH3:7][C:8]1([CH3:9])[CH2:10][CH2:11][C:12]([CH3:13])([CH3:14])[c:15]2[cH:16][c:17](-[c:18]3[cH:19][s:20][c:21]([N:22]4[CH2:23][CH2:24][CH:25]([NH2:26])[CH2:27][CH2:28]4)[n:29]3)[cH:30][cH:31][c:32]21>>[CH2:1]([CH2:2][CH2:3][CH2:4][CH2:5][OH:6])[NH:26][CH:25]1[CH2:24][CH2:23][N:22]([c:21]2[s:20][cH:19][c:18](-[c:17]3[cH:16][c:15]4[c:32]([cH:31][cH:30]3)[C:8]([CH3:7])([CH3:9])[CH2:10][CH2:11][C:12]4([CH3:13])[CH3:14])[n:29]2)[CH2:28][CH2:27]1,[CH3:7][C:8]1([CH3:9])[CH2:10][CH2:11][C:12]([CH3:13])([CH3:14])[c:15]2[cH:16][c:17](-[c:18]3[cH:19][s:20][c:21]([N:22]4[CH2:23][CH2:24][CH:25]([NH2:26])[CH2:27][CH2:28]4)[n:29]3)[cH:30][cH:31][c:32]21.[O:101]=[CH:1][CH2:2][CH2:3][CH2:4][CH2:5][OH:6].[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([CH2:2][CH2:3][CH2:4][CH2:5][OH:6])[NH:26][CH:25]1[CH2:24][CH2:23][N:22]([c:21]2[s:20][cH:19][c:18](-[c:17]3[cH:16][c:15]4[c:32]([cH:31][cH:30]3)[C:8]([CH3:7])([CH3:9])[CH2:10][CH2:11][C:12]4([CH3:13])[CH3:14])[n:29]2)[CH2:28][CH2:27]1,reductive_amination,"[(26, 1), ([1, 101], 301), (101, 26.1), ([26.1, 26], 26), (26, [26, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 26], 26)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CCOP(=O)(OCC)[CH2:1][C:2]([O:3][CH2:4][CH3:5])=[O:6].O=[C:7]([CH3:8])[c:9]1[cH:21][cH:20][c:12]([C:13](=[O:14])[O:15][C:16]([CH3:17])([CH3:18])[CH3:19])[cH:11][cH:10]1>>[CH:1]([C:2]([O:3][CH2:4][CH3:5])=[O:6])=[C:7]([CH3:8])[c:9]1[cH:10][cH:11][c:12]([C:13](=[O:14])[O:15][C:16]([CH3:17])([CH3:18])[CH3:19])[cH:20][cH:21]1,[O:101]=[C:7]([CH3:8])[c:9]1[cH:10][cH:11][c:12]([C:13](=[O:14])[O:15][C:16]([CH3:17])([CH3:18])[CH3:19])[cH:20][cH:21]1.CCO[P:102](=[O:201])(OCC)[CH2:1][C:2]([O:3][CH2:4][CH3:5])=[O:6].[OH1-:301]>>[CH:1]([C:2]([O:3][CH2:4][CH3:5])=[O:6])=[C:7]([CH3:8])[c:9]1[cH:10][cH:11][c:12]([C:13](=[O:14])[O:15][C:16]([CH3:17])([CH3:18])[CH3:19])[cH:20][cH:21]1,Horner_Wadsworth_Emmons,"[(301, 1.1), ([1.1, 1], 1), (1, 7), ([7, 101], 102), ([102, 201], 201), ([7, 101], [101, 102]), ([102, 1], [1, 7])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C@@H:1]([CH2:2][CH:3]=[CH2:4])[CH3:5].[O:6]=[CH:7][c:8]1[cH:9][c:10]([F:11])[c:12]([F:13])[cH:14][c:15]1[OH:16]>>[C@@H:1]([CH2:2][CH:3]=[CH2:4])([CH3:5])[O:16][c:15]1[c:8]([CH:7]=[O:6])[cH:9][c:10]([F:11])[c:12]([F:13])[cH:14]1,[O:6]=[CH:7][c:8]1[cH:9][c:10]([F:11])[c:12]([F:13])[cH:14][c:15]1[OH:16].[OH:101][C@@H:1]([CH2:2][CH:3]=[CH2:4])[CH3:5].c1ccccc1[P:301](c2ccccc2)c3ccccc3.[O:302]=[C:303]([N:304]=[N:305]C(=O)OCC)OCC>>[C@@H:1]([CH2:2][CH:3]=[CH2:4])([CH3:5])[O:16][c:15]1[c:8]([CH:7]=[O:6])[cH:9][c:10]([F:11])[c:12]([F:13])[cH:14]1,Mitsunobu,"[(301, 305), ([305, 304], 304), (304, [304, 303]), ([303, 302], 302), (302, [302, 303]), ([303, 304], 16.1), ([16.1, 16], 16), (101, 301), ([301, 305], 305), (305, 101.1), ([101.1, 101], 101), (16, 1), ([1, 101], [101, 301])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[c:3]1[cH:4][c:5]2[n:6][cH:7][c:8]([Cl:9])[cH:10][n:11]2[n:12]1.[CH3:13][CH:14]1[NH:15][CH2:16][CH2:17][c:18]2[s:19][c:20]([F:21])[cH:22][c:23]21>>[C:1](=[O:2])([c:3]1[cH:4][c:5]2[n:6][cH:7][c:8]([Cl:9])[cH:10][n:11]2[n:12]1)[N:15]1[CH:14]([CH3:13])[c:23]2[c:18]([s:19][c:20]([F:21])[cH:22]2)[CH2:17][CH2:16]1,[OH:101][C:1](=[O:2])[c:3]1[cH:4][c:5]2[n:6][cH:7][c:8]([Cl:9])[cH:10][n:11]2[n:12]1.[CH3:13][CH:14]1[NH:15][CH2:16][CH2:17][c:18]2[s:19][c:20]([F:21])[cH:22][c:23]21.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[cH:4][c:5]2[n:6][cH:7][c:8]([Cl:9])[cH:10][n:11]2[n:12]1)[N:15]1[CH:14]([CH3:13])[c:23]2[c:18]([s:19][c:20]([F:21])[cH:22]2)[CH2:17][CH2:16]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (15, 1), ([1, 2], 2), (303, 15.1), ([15.1, 15], 15), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
